US08466282B2
Tert-butyl (5-methoxy-2-nitrophenyl)carbamate
5-Methoxy-2-nitrobenzoic acid (10.30 g) was suspended in toluene (200 ml), triethylamine (9 ml) and diphenylphosphoryl azide (14 ml) were added dropwise at room temperature, and the mixture was stirred at 95° C. for 1.5 hr. Triethylamine (29 ml) and 2-methylpropan-2-ol (15 ml) were added, and the mixture was further stirred at 95° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, and diluted with ethyl acetate. 0.5M Hydrochloric acid (200 ml) was added, and the mixture was filtered through celite. The organic layer of the filtrate was collected, washed with saturated aqueous sodium hydrogen carbonate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (5:95-1:1) was concentrated under reduced pressure to give the object product (13.28 g).

reactant | 5-Methoxy-2-nitrobenzoic acid | 10.30 g | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 14 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Triethylamine | 29 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methylpropan-2-ol | 15 ml | CC(C)(C)O | C4H10O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl (5-methoxy-2-nitrophenyl)carbamate | 13.28 g | COC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C12H16N2O5
